US06469176B1
Preparation of 2-Methyl-6-nitrobenzaldehyde
At 65° C., 14 g of 2-methyl-6-nitrobenzaldoxime (80 mmol) are stirred in a mixture of 55 ml of 5% strength hydrochloric acid, 37 g of a 37% strength solution of formaldehyde, 50 ml of water and 100 ml of tetrahydrofuran for 24 hours. The phases are subsequently separated, and the dark phase is extracted with methylene chloride/water. The organic phase is dried with sodium sulfate and concentrated. This gives 10.1 g of crude product which is purified by filtration over silica gel using toluene as mobile phase.

reactant | 2-methyl-6-nitrobenzaldoxime | 80 mmol, 14 g | CC1=C(C=NO)C(=CC=C1)[N+](=O)[O-] | C8H8N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | C=O | CH2O
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Methyl-6-nitrobenzaldehyde | CC1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C8H7NO3
